### PR TITLE
feat(Data/Nat): make maxPrimeFac computable

### LINKED ISSUE #4809: Make `Nat.maxPrimeFac` computable and add a basic specification API
### Motivation

[`Nat.maxPrimeFac`](https://github.com/google-deepmind/formal-conjectures/blob/f40ecd9b3b79a7aa1a64b7d2f3b2623d4a6c3081/FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean)
is currently defined noncomputably as

```lean
noncomputable def maxPrimeFac (n : ℕ) : ℕ :=
  sSup {p : ℕ | p.Prime ∧ p ∣ n}
```

The module already contains a TODO suggesting the computable implementation

```lean
n.primeFactorsList.getLastI
```

Making the definition computable would allow concrete evaluation while retaining the existing mathematical meaning. The function is already used by several formalized conjectures, so it would also be helpful to expose a small, stable specification API rather than requiring users to unfold the implementation.

### Proposed change

Investigate redefining `Nat.maxPrimeFac` along the following lines:

```lean
def maxPrimeFac (n : ℕ) : ℕ :=
  n.primeFactorsList.getLastI
```

The change should:

- preserve the existing convention `maxPrimeFac 0 = 0` and `maxPrimeFac 1 = 0`;
- preserve the existing public lemmas and downstream statements;
- prove that the computable definition has the same `sSup` characterization as the current definition;
- provide a minimal basic API describing primeness, divisibility, and maximality for inputs greater than one;
- add only generally useful lemmas, leaving exact names and simp attributes open to review.

A useful semantic bridge would have the shape

```lean
maxPrimeFac n = sSup {p : ℕ | p.Prime ∧ p ∣ n}
```

although the final theorem name and orientation should follow the most useful rewriting direction.

### Edge cases and proof ingredients

Mathlib already provides the main facts needed for this implementation:

- `Nat.primeFactorsList_sorted`;
- `Nat.primeFactorsList_eq_nil`;
- `Nat.mem_primeFactorsList`;
- primeness and divisibility of members of `primeFactorsList`.

For `n > 1`, the factor list is nonempty and sorted, so its last element is prime, divides `n`, and bounds every other prime divisor.

For `n = 0` and `n = 1`, `primeFactorsList` is empty and `List.getLastI` returns the default natural number `0`. This agrees with the current definition, but both cases should be covered explicitly by the compatibility proof.

### Scope

This issue is limited to the reusable API in
`FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean`.

It should not include proofs of downstream conjectures or unrelated changes to their statements. Upstreaming the resulting API to mathlib, if desirable, can be considered separately after the local interface has been reviewed.

The implementation must contain no `sorry` and should pass:

```text
lake --wfail build
```

### Work status

- [x] I plan to work on this issue.

### PR DESCRIPTION
**Pull request by bocowgill**
Closes #4809.

## Summary

- Redefine `Nat.maxPrimeFac` as `if n = 1 then 1 else n.primeFactorsList.getLastI`, preserving `maxPrimeFac 0 = 0` while adopting `maxPrimeFac 1 = 1`.
- Add structural API for primeness, unconditional divisibility, maximality, fixed points, products, powers with nonzero exponent, and the bound `maxPrimeFac n ≤ n`.
- Characterize `maxPrimeFac n` as the least upper bound of the prime divisors of `n` when `1 < n`.
- Prove that the computable definition agrees with the supremum characterization whenever `n ≠ 1`.
- Characterize the fixed points of `maxPrimeFac` as exactly `0`, `1`, and the primes.
- Add executable regression checks for `0`, `1`, composites, a prime, and a nontrivial prime power.
- Update the proof of Erdős Problem 649 to consume the public `maxPrimeFac` API.

The resulting API includes `Nat.prime_maxPrimeFac_of_one_lt`, `Nat.maxPrimeFac_dvd`, `Nat.le_maxPrimeFac`, `Nat.Prime.maxPrimeFac_eq_self`, `Nat.maxPrimeFac_eq_self_iff`, `Nat.maxPrimeFac_mul`, `Nat.maxPrimeFac_pow`, `Nat.maxPrimeFac_le`, `Nat.isLeast_maxPrimeFac`, and `Nat.maxPrimeFac_eq_sSup`. Clients that need to unfold the definition can use its generated equation theorem rather than a separate redundant unfolding lemma.

## Mathematical and API notes

For `1 < n`, `n.primeFactorsList` is nonempty and sorted. Its final entry is therefore prime, divides `n`, and is at least every other prime divisor of `n`.

The edge conventions are:

```lean
Nat.maxPrimeFac 0 = 0
Nat.maxPrimeFac 1 = 1
```

The fixed-point characterization is a simp lemma:

```lean
Nat.maxPrimeFac n = n ↔ n ≤ 1 ∨ n.Prime
```

Thus the fixed points are exactly `0`, `1`, and the primes. With these conventions, `Nat.maxPrimeFac_dvd` holds for every natural number. The maximality theorem `Nat.le_maxPrimeFac` requires only `n ≠ 0`.

For nonzero natural numbers `m` and `n`, the multiplication law is:

```lean
Nat.maxPrimeFac (m * n) =
  max (Nat.maxPrimeFac m) (Nat.maxPrimeFac n)
```

For `k ≠ 0`, the power law is:

```lean
Nat.maxPrimeFac (n ^ k) = Nat.maxPrimeFac n
```

This generalizes the former prime-specific power theorem. For a prime base, `Nat.Prime.maxPrimeFac_eq_self` recovers the corresponding prime-power result.

For `1 < n`, `Nat.isLeast_maxPrimeFac` states:

```lean
IsLeast (upperBounds {p : ℕ | p.Prime ∧ p ∣ n})
  (Nat.maxPrimeFac n)
```

The supremum characterization is:

```lean
Nat.maxPrimeFac n = sSup {p : ℕ | p.Prime ∧ p ∣ n}
```

under the hypothesis `n ≠ 1`. It still includes `n = 0`. The excluded value `n = 1` is genuinely exceptional: the left-hand side is `1`, while the set of prime divisors is empty and its supremum in `ℕ` is `0`.

The edge-case lemmas, `Nat.Prime.maxPrimeFac_eq_self`, `Nat.maxPrimeFac_eq_self_iff`, and `Nat.maxPrimeFac_pow` are simp lemmas. The definition and supremum characterization are intentionally not general simp rules, so routine simplification does not expand a prime factorization or change representations.

## Verification

The following passed with `--wfail` after rebasing onto current `main`:

- `FormalConjecturesForMathlib.Data.Nat.MaxPrimeFac`
- `FormalConjecturesForMathlib`
- Erdős Problems 370, 371, 373, 383, 648, 649, and 932

Computational checks cover `0`, `1`, `12`, `97`, `125`, and `360`. The `1` case is proved by `rfl`; the nontrivial computations use `decide +kernel`.

Verified with Lean 4.27.0 and Mathlib revision `a3a10db0e9d66acbebf76c5e6a135066525ac900`.

## Scope

This changes two files:

- `FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean`
- `FormalConjectures/ErdosProblems/649.lean`

The Erdős 649 statement and mathematics are unchanged. Its completed proof now uses `Nat.maxPrimeFac_dvd` and `Nat.le_maxPrimeFac` directly instead of reconstructing those facts through the supremum representation.

In the downstream audit, Erdős Problem 371’s underlying set gains only the isolated element `0`, which does not change its natural density. The other statement-level consumers are unaffected by the new value at `1`.

## AI assistance

This contribution was developed with assistance from OpenAI Codex.

### CODE REVIEW

**Comment by mo271** [comment]
I'm not entirely sure if this "showing that it is equivalent to something computable" is the best approach here, will let @YaelDillies and/or @Paul-Lez have a look

**Comment by williamjblair** [comment]
Design question aside: the description lists computational checks over `0`, `1`, composites, a prime and a prime power, but none are in the diff, so nothing guards the property this PR adds.

```lean
example : maxPrimeFac 0 = 0 := by decide +kernel
example : maxPrimeFac 1 = 0 := by decide +kernel
example : maxPrimeFac 12 = 3 := by decide +kernel
example : maxPrimeFac 97 = 97 := by decide +kernel
example : maxPrimeFac 360 = 5 := by decide +kernel
```

These need nothing beyond the module's existing imports and stay on the standard three axioms. Plain `decide` and `rfl` both fail at a numeral, so `+kernel` is the one to use.

The refactor itself builds clean here with no warnings, and `#eval Nat.maxPrimeFac 1000003` returns `1000003`.

**Comment by bocowgill** [comment]
@williamjblair Thanks, good catch. I added `by decide +kernel` regression examples for `0`, `1`, `12`, `97`, and `360`, plus `125` to explicitly cover a nontrivial prime power. The targeted module build (817 jobs) and full `lake --wfail build` (9,010 jobs) both pass.

**Comment by williamjblair** [comment]
Nice thanks, looks good now!

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 1]
```diff
@@ -24,46 +24,122 @@ namespace Nat
 
 /-- The greatest prime divisor of a natural number `n > 1`.
 
-Takes the junk value `0` for `n = 0` and `n = 1`.
+Takes the junk value `0` for `n = 0` and `n = 1`. -/
+def maxPrimeFac (n : ℕ) : ℕ := n.primeFactorsList.getLastI
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
Takes the junk value `0` for `n = 0` and `1` for `n = 1`. -/
def maxPrimeFac (n : ℕ) : ℕ := if n = 1 then 1 else n.primeFactorsList.getLastI
```
seems more reasonable, see below

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 2]
```diff
@@ -24,46 +24,122 @@ namespace Nat
...
 
-TODO Consider redefining this using the computable implementation:
-`n.primeFactorsList.getLastI`. -/
-noncomputable def maxPrimeFac (n : ℕ) : ℕ := sSup {p : ℕ | p.Prime ∧ p ∣ n}
+/-- The executable representation of the greatest prime factor. -/
+lemma maxPrimeFac_eq_getLastI (n : ℕ) :
+    maxPrimeFac n = n.primeFactorsList.getLastI := rfl
+
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: This lemma already exists under the name `maxPrimeFac.eq_def`. No need to redeclare it
```suggestion
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 3]
```diff
@@ -24,46 +24,122 @@ namespace Nat
...
+example : maxPrimeFac 0 = 0 := by decide +kernel
+example : maxPrimeFac 1 = 0 := by decide +kernel
+example : maxPrimeFac 12 = 3 := by decide +kernel
+example : maxPrimeFac 97 = 97 := by decide +kernel
+example : maxPrimeFac 125 = 5 := by decide +kernel
+example : maxPrimeFac 360 = 5 := by decide +kernel
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean:35]: Do you need the `+kernel` here?

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 4]
```diff
@@ -24,46 +24,122 @@ namespace Nat
...
-    exact fun p _ hp ↦ Nat.le_of_dvd (zero_lt_of_lt h) hp
-  exact (Nat.sSup_mem hs₀ hs₁).1
+  have hn : n.primeFactorsList ≠ [] := (primeFactorsList_ne_nil n).2 h
+  have hmem : n.primeFactorsList.getLast hn ∈ n.primeFactorsList := List.getLast_mem hn
+  have hprime : Prime (n.primeFactorsList.getLast hn) := prime_of_mem_primeFactorsList hmem
+  simpa [maxPrimeFac, List.getLastI_eq_getLast?_getD,
+    List.getLast?_eq_getLast_of_ne_nil hn] using hprime
+
+/-- The greatest prime factor of `n > 1` divides `n`. -/
+lemma maxPrimeFac_dvd (n : ℕ) (h : 1 < n) :
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_dvd {n : ℕ} :
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 5]
```diff
@@ -24,46 +24,122 @@ namespace Nat
...
+    maxPrimeFac n ∣ n := by
+  have hn : n.primeFactorsList ≠ [] := (primeFactorsList_ne_nil n).2 h
+  have hmem : n.primeFactorsList.getLast hn ∈ n.primeFactorsList := List.getLast_mem hn
+  have hdvd : n.primeFactorsList.getLast hn ∣ n := dvd_of_mem_primeFactorsList hmem
+  simpa [maxPrimeFac, List.getLastI_eq_getLast?_getD,
+    List.getLast?_eq_getLast_of_ne_nil hn] using hdvd
+
+/-- Every prime factor of a positive natural number is at most its greatest prime factor. -/
+lemma le_maxPrimeFac
+    (n p : ℕ) (hn : 0 < n) (hp : p.Prime) (h_dvd : p ∣ n) :
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
    {n p : ℕ} (hn : n \ne 0) (hp : p.Prime) (h_dvd : p ∣ n) :
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 6]
```diff
@@ -24,46 +24,122 @@ namespace Nat
...
-  have hs₁ : BddAbove s := by
-    use n
-    simp only [hs, mem_upperBounds, Set.mem_setOf_eq, and_imp]
-    exact fun p _ hp ↦ Nat.le_of_dvd (zero_lt_of_lt hn) hp
-  exact ConditionallyCompleteLattice.le_csSup s p hs₁ ⟨hp, h_dvd⟩
+  exact le_antisymm h_le (le_maxPrimeFac n p hn hp h_dvd)
+
+/-- The greatest prime factor of a prime is the prime itself. -/
+@[simp]
+lemma Prime.maxPrimeFac {p : ℕ} (hp : p.Prime) :
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma Prime.maxPrimeFac_eq_self {p : ℕ} (hp : p.Prime) :
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 7]
```diff
@@ -24,46 +24,122 @@ namespace Nat
...
+    exact Nat.le_of_dvd (zero_lt_of_lt hn) (maxPrimeFac_dvd n hn)
+  case inl =>
+    simp only [lt_one_iff] at hn
+    subst n
+    simp
+  case inr.inl => simp
+
+/-- The computable greatest prime factor agrees with its supremum characterization. -/
+lemma maxPrimeFac_eq_sSup (n : ℕ) :
+    maxPrimeFac n = sSup {p : ℕ | p.Prime ∧ p ∣ n} := by
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: This one will now require `n \ne 1`

**Review by YaelDillies — COMMENTED** [review]
Can you characterise when `maxPrimeFac n = n`?

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 8]
```diff
@@ -24,46 +24,134 @@ namespace Nat
...
-  simpa [maxPrimeFac] using Set.Infinite.Nat.sSup_eq_zero infinite_setOf_prime
+  simp [maxPrimeFac, List.getLastI]
 
 @[simp]
 lemma maxPrimeFac_one :
-    maxPrimeFac 1 = 0 := by
-  suffices {p : ℕ | p.Prime ∧ p = 1} = ∅ by simp [maxPrimeFac, this]
-  aesop
+    maxPrimeFac 1 = 1 := by
+  simp [maxPrimeFac]
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
    maxPrimeFac 1 = 1 := rfl
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 9]
```diff
@@ -24,46 +24,134 @@ namespace Nat
...
+    have hmem : n.primeFactorsList.getLast hlist ∈ n.primeFactorsList :=
+      List.getLast_mem hlist
+    have hdvd : n.primeFactorsList.getLast hlist ∣ n := dvd_of_mem_primeFactorsList hmem
+    simpa [maxPrimeFac, hn.ne', List.getLastI_eq_getLast?_getD,
+      List.getLast?_eq_getLast_of_ne_nil hlist] using hdvd
+  case inl =>
+    simp only [lt_one_iff] at hn
+    subst n
+    simp
+  case inr.inl => simp
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_dvd : \forall {n : ℕ}, maxPrimeFac n ∣ n
  | 0 => by simp
  | 1 => by simp
  | n + 2 => by
    have hlist : n.primeFactorsList ≠ [] := (primeFactorsList_ne_nil n).2 hn
    have hmem : n.primeFactorsList.getLast hlist ∈ n.primeFactorsList :=
      List.getLast_mem hlist
    have hdvd : n.primeFactorsList.getLast hlist ∣ n := dvd_of_mem_primeFactorsList hmem
    simpa [maxPrimeFac, hn.ne', List.getLastI_eq_getLast?_getD,
      List.getLast?_eq_getLast_of_ne_nil hlist] using hdvd
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 10]
```diff
@@ -24,46 +24,134 @@ namespace Nat
...
+    by_cases hn : n ≤ 1
+    · exact Or.inl hn
+    · exact Or.inr <| h ▸ prime_maxPrimeFac_of_one_lt n (lt_of_not_ge hn)
+  · rintro (hn | hn)
+    · obtain rfl | rfl := Nat.le_one_iff_eq_zero_or_eq_one.mp hn <;> simp
+    · exact hn.maxPrimeFac_eq_self
+
+/-- The greatest prime factor of a nontrivial prime power is its prime base. -/
+lemma Prime.maxPrimeFac_pow {p k : ℕ} (hp : p.Prime) (hk : k ≠ 0) :
+    Nat.maxPrimeFac (p ^ k) = p := by
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Can you generalise this?
```suggestion
@[simp] lemma maxPrimeFac_pow {k : ℕ} (hk : k ≠ 0) (n : \Nat) :
    (n ^ k).maxPrimeFac = n.maxPrimeFac := by
```
Please deduce it from `(m * n).maxPrimeFac = max m.maxPrimeFac n.maxPrimeFac` for non-zero `m`, `n`

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 11]
```diff
@@ -24,46 +24,134 @@ namespace Nat
...
+  rw [Nat.maxPrimeFac, hp.primeFactorsList_pow]
+  obtain ⟨j, rfl⟩ := Nat.exists_eq_succ_of_ne_zero hk
+  have hrep : List.replicate (j + 1) p ≠ [] := by
+    simp
+  simp [hp.ne_one, List.getLastI_eq_getLast?_getD,
+    List.getLast?_eq_getLast_of_ne_nil hrep]
+
+/-- The greatest prime factor of a natural number is at most that number. -/
+lemma maxPrimeFac_le (n : ℕ) :
+    maxPrimeFac n ≤ n := by
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_le {n : ℕ} : maxPrimeFac n ≤ n := by
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 12]
```diff
@@ -24,46 +24,134 @@ namespace Nat
...
+  rcases lt_trichotomy n 1 with hn | rfl | hn
+  case inr.inr =>
+    exact Nat.le_of_dvd (zero_lt_of_lt hn) maxPrimeFac_dvd
+  case inl =>
+    simp only [lt_one_iff] at hn
+    subst n
+    simp
+  case inr.inl => simp
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_le : \forall {n : ℕ}, maxPrimeFac n ≤ n 
  | 0 => by simp
  | 1 => by simp
  | n + 2 => Nat.le_of_dvd (by lia) maxPrimeFac_dvd
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 13]
```diff
@@ -24,46 +24,134 @@ namespace Nat
...
+
+/-- Away from `n = 1`, the computable greatest prime factor agrees with its supremum
+characterization. -/
+lemma maxPrimeFac_eq_sSup {n : ℕ} (hn_one : n ≠ 1) :
+    maxPrimeFac n = sSup {p : ℕ | p.Prime ∧ p ∣ n} := by
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean:168]: Can you deduce this from the corresponding `IsLeast` statement?

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 1 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Agreed—implemented in `6e932c15`: `maxPrimeFac` now uses the `1 ↦ 1` convention while retaining `0 ↦ 0`, and the downstream API and documentation were updated. The targeted `--wfail` build and fresh CI at `5375f406` pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 2 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Removed in `6e932c15`; callers can use the generated `maxPrimeFac.eq_def`. The targeted `--wfail` build and fresh CI at `5375f406` pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 3 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean:35]: For the `1` case, no: it is now `rfl` in `5375f406`. I also retested plain `decide` for `0`, `12`, `97`, `125`, and `360`; it does not close those goals, while `decide +kernel` succeeds, so those cases retain `+kernel`. The targeted `--wfail` build and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 4 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Done in `6e932c15`: `n` is implicit. The proof was subsequently made structural in `5375f406`; the targeted `--wfail` build and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 5 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Done in `6e932c15`: `n` and `p` are implicit and the hypothesis is weakened to `n ≠ 0`. Erdős 649 now uses this public theorem in `5375f406`; both scoped `--wfail` builds and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 6 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Renamed in `6e932c15` to `Prime.maxPrimeFac_eq_self`, retaining `[simp]`. The targeted `--wfail` build and fresh CI at `5375f406` pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 7 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Done in `6e932c15`: `maxPrimeFac_eq_sSup` assumes `n ≠ 1` while still covering `n = 0`. Its proof was subsequently refactored through `IsLeast`/`IsLUB` in `5375f406`; the targeted `--wfail` build and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 8 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Done in `5375f406`: the proof is now exactly `rfl`. The targeted `--wfail` build and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 9 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Implemented structurally in `5375f406`, with cases for `0`, `1`, and `n + 2`. Erdős 649 now consumes `Nat.maxPrimeFac_dvd` directly; both scoped `--wfail` builds and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 10 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Generalized in `5375f406`: `maxPrimeFac_mul` handles nonzero factors, and the `[simp]` theorem `maxPrimeFac_pow` for `k ≠ 0` is deduced inductively from that product law. The shared umbrella, all direct consumers, and fresh CI pass with `--wfail`.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 11 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Done in `5375f406`: `n` is implicit. The targeted `--wfail` build and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 12 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Done structurally in `5375f406`, with cases for `0`, `1`, and `n + 2`, using `Nat.le_of_dvd` in the final case. The targeted `--wfail` build and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 13 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean:168]: Done in `5375f406`: `isLeast_maxPrimeFac` supplies the corresponding `IsLeast`/`IsLUB` statement, and `maxPrimeFac_eq_sSup` is deduced using `IsLUB.csSup_eq` (with the exceptional `n = 0` case retained). The targeted `--wfail` build and fresh CI pass.

**Comment by bocowgill** [comment]
@YaelDillies Done in `93ec39f8`:

```lean
@[simp]
lemma maxPrimeFac_eq_self_iff {n : ℕ} :
    maxPrimeFac n = n ↔ n ≤ 1 ∨ n.Prime
```

The targeted `--wfail` build and fresh CI at `5375f406` pass.

**Comment by bocowgill** [comment]
All requested follow-ups are now addressed in `5375f406`.

Verification:

- `lake --wfail build FormalConjecturesForMathlib.Data.Nat.MaxPrimeFac` — passed
- `lake --wfail build 'FormalConjectures.ErdosProblems.«649»'` — passed
- `lake --wfail build FormalConjecturesForMathlib` — passed
- Fresh CI for `5375f406` — all seven non-skipped checks passed, including the project build; five deployment-related checks were skipped as expected.

**Comment by bocowgill** [comment]
-awaiting-author

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 14]
```diff
@@ -24,46 +24,163 @@ namespace Nat
...
+      exact dvd_mul_of_dvd_left maxPrimeFac_dvd n
+    · have hp : Prime (maxPrimeFac n) := prime_maxPrimeFac_of_one_lt n hn_lt
+      apply le_maxPrimeFac (mul_ne_zero hm hn) hp
+      exact dvd_mul_of_dvd_right maxPrimeFac_dvd m
+
+/-- The greatest prime factor of a nonzero power is the greatest prime factor of its base. -/
+@[simp]
+lemma maxPrimeFac_pow {k : ℕ} (hk : k ≠ 0) (n : ℕ) :
+    maxPrimeFac (n ^ k) = maxPrimeFac n := by
+  obtain ⟨j, rfl⟩ := Nat.exists_eq_succ_of_ne_zero hk
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Can you use pattern-matching here as well?

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 15]
```diff
@@ -24,46 +24,163 @@ namespace Nat
...
+
+/-- Away from `n = 1`, the computable greatest prime factor agrees with its supremum
+characterization. -/
+lemma maxPrimeFac_eq_sSup {n : ℕ} (hn_one : n ≠ 1) :
+    maxPrimeFac n = sSup {p : ℕ | p.Prime ∧ p ∣ n} := by
+  by_cases hn_zero : n = 0
+  · subst n
+    simpa using (Set.Infinite.Nat.sSup_eq_zero infinite_setOf_prime).symm
+  · have hn : 1 < n := Nat.one_lt_iff_ne_zero_and_ne_one.mpr ⟨hn_zero, hn_one⟩
+    have h_lub : IsLUB {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n) :=
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
  obtain rfl | hn : n = 0 \or 1 < n := by lia
  · simpa using (Set.Infinite.Nat.sSup_eq_zero infinite_setOf_prime).symm
  · have h_lub : IsLUB {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n) :=
```

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean [hunk 16]
```diff
@@ -24,46 +24,163 @@ namespace Nat
...
+greatest prime factors. -/
+lemma maxPrimeFac_mul {m n : ℕ} (hm : m ≠ 0) (hn : n ≠ 0) :
+    maxPrimeFac (m * n) = max (maxPrimeFac m) (maxPrimeFac n) := by
+  by_cases hm_one : m = 1
+  · subst m
+    have hle : 1 ≤ maxPrimeFac n := by
+      by_cases hn_one : n = 1
+      · subst n
+        simp
+      · have hn_lt : 1 < n := Nat.one_lt_iff_ne_zero_and_ne_one.mpr ⟨hn, hn_one⟩
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Same here

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 14 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Done in `b6d31f64`: the proof now pattern-matches on `k` and `hk`, exposing the nonzero exponent as a successor before induction. The targeted `--wfail` build, shared umbrella build, and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 15 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Applied in `b6d31f64`: the proof now splits directly into `n = 0` and `1 < n` using the suggested `obtain rfl | hn` form, then uses `hn` in the `IsLUB` branch. The targeted `--wfail` build, shared umbrella build, and fresh CI pass.

File: FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean (hunk 16 above)
Comment (bocowgill) [reply FormalConjecturesForMathlib/Data/Nat/MaxPrimeFac.lean]: Done in `b6d31f64`: both nonzero factors are now split by pattern matching into the cases `1` and `> 1` using `obtain rfl | ... := by omega`. The core divisibility argument is unchanged. The targeted `--wfail` build, shared umbrella build, and fresh CI pass.

**Comment by bocowgill** [comment]
-awaiting-author

**Review by YaelDillies — APPROVED** [review]
Thanks! Would you like to open a PR to mathlib with the definition of `maxPrimeFac` and its API?

**Comment by bocowgill** [comment]
> Thanks! Would you like to open a PR to mathlib with the definition of `maxPrimeFac` and its API?

Thank you for the invitation. I’d be glad to prepare a Mathlib PR for `maxPrimeFac` and its API. Once the port is ready and CI is green, I’ll request your review there. Let me know how that sounds.

**Comment by YaelDillies** [comment]
Sounds great! Just ping me on the PR when it's ready
